US08222248B2
To a solution of 4-nitro-benzene-1,3-diamine (1.6 g) in acetonitrile (20 mL) was added NaHCO3 (1 g) and ethyl chloroformate (1.0 mL). The mixture was heated at 75° C. with stirring overnight. Cooled to ambient temperature, the mixture was diluted by water and extracted twice with ethyl acetate. Combined organics were dried over Na2SO4, filtered, and concentrated to give crude yellow solid. Trituration from dichloromethane afforded (3-amino-4-nitro-phenyl)-carbamic acid ethyl ester: 1H NMR (400 MHz, CD3OD) 7.9 (d, 1H), 7.3 (s, 1H), 6.5 (d, 1H), 4.2 (q, 2H), 1.3 (t, 3H).

reactant | 4-nitro-benzene-1,3-diamine | 1.6 g | [N+](=O)([O-])C1=C(C=C(C=C1)N)N | C6H7N3O2
reactant | NaHCO3 | 1 g | C(=O)(O)[O-].[Na+]
reactant | ethyl chloroformate | 1.0 mL | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3-amino-4-nitro-phenyl)-carbamic acid ethyl ester | C(C)OC(NC1=CC(=C(C=C1)[N+](=O)[O-])N)=O | C9H11N3O4
